US06635640B2
3-(5-Methylthiophen-2-ylmethylene)-4-piperidin-4-yl-1,3-dihydro-indol-2-one
4-Piperidin-4-yl-1,3-dihydroindol-2-one (45 mg, 0.2 mmol) was condensed with 5-methylthiophene-2-carbaldehyde (28 mg, 0.23 mmol) to give the title compound.

reactant | 4-Piperidin-4-yl-1,3-dihydroindol-2-one | 0.2 mmol, 45 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 5-methylthiophene-2-carbaldehyde | 0.23 mmol, 28 mg | CC1=CC=C(S1)C=O | C6H6OS
product | 3-(5-Methylthiophen-2-ylmethylene)-4-piperidin-4-yl-1,3-dihydro-indol-2-one | CC1=CC=C(S1)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O | C19H20N2OS
